US07589116B2
To a solution of ethyl 1-(3-bromophenyl)-5-tert-butyl-1H-pyrazole-3-carboxylate and 2-chlorophenylboronic acid (0.279 g, 1.78 mmol) in n-propanol:water (2.35 ml:0.482 ml) mixture were added palladium acetate (0.005 g), triphenylphosphine (0.016 g) and 2N sodium carbonate (0.497 ml) and the solution was refluxed for 16 hours. To the reaction, a 2N solution of NaOH (1.5 ml) was added and refluxed for an additional 2 hours. The solution was cooled, acidified with 10% citric acid and extracted into ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give 0.212 g of 5-tert-butyl-1-(2′-chloro-1,1′-biphenyl-3-yl)-1H-pyrazole-3-carboxylic acid.

reactant | ethyl 1-(3-bromophenyl)-5-tert-butyl-1H-pyrazole-3-carboxylate | BrC=1C=C(C=CC1)N1N=C(C=C1C(C)(C)C)C(=O)OCC | C16H19BrN2O2
reactant | 2-chlorophenylboronic acid | 1.78 mmol, 0.279 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | triphenylphosphine | 0.016 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2N, 0.497 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1.5 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | n-propanol | C(CC)O | C3H8O
catalyst | palladium acetate | 0.005 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2.35 ml | O | H2O
product | 5-tert-butyl-1-(2′-chloro-1,1′-biphenyl-3-yl)-1H-pyrazole-3-carboxylic acid | 0.212 g | C(C)(C)(C)C1=CC(=NN1C=1C=C(C=CC1)C1=C(C=CC=C1)Cl)C(=O)O | C20H19ClN2O2
